US04837333
n-Butyl lithium (100 ml of 2.5M solution in hexane, 0.25 mol) was added to a stirred solution of diisopropylamine (35 ml, 0.25 mol) in dry tetrahydrofuran (250 ml) at -78° C. under a nitrogen atmosphere. The solution was allowed to warm up to -5° C., stirred for 30 minutes, cooled back to -78° C., and treated with p-toluic acid (17.0 g, 0.125 mol) in portions over 2 hours. The resulting mixture was allowed to warm up to -5° C. and stirred for 30 minutes. The resulting black solution was again cooled to -78° C. and treated dropwise with a solution of 4-bromobutene (17 ml, 0.166 mol) in dry tetrahydrofuran (100 ml) over 1 hour. The resulting yellow solution was allowed to warm up to room temperature and stirred for an additional 12 hours. The solvent was evaporated off under reduced pressure and the residue was treated with hydrochloric acid (500 ml of 5M) and extracted with dichloromethane (3×300 ml). The combined extracts were washed with water (2×250 ml), brine (250 ml) and dried over sodium sulfate. The solvent was evaporated off under reduced pressure to give crude 4-(4-pentenyl)benzoic acid as a solid.

reactant | n-Butyl lithium | 0.25 mol, 2.5M, 100 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.25 mol, 35 ml | C(C)(C)NC(C)C | C6H15N
reactant | p-toluic acid | 0.125 mol, 17.0 g | CC=1C=CC(=CC1)C(=O)O | C8H8O2
reactant | 4-bromobutene | 0.166 mol, 17 ml | BrCCC=C | C4H7Br
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(4-pentenyl)benzoic acid | C(CCC=C)C1=CC=C(C(=O)O)C=C1 | C12H14O2
